US04846881
4-Amino-6-(1-cyclopropylethyl)-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H,4H)-triazine
882 g (4.14 mols) of 4-(cyclopropyl-methyl-methylene)-N-methylrhodanine (as an E/Z mixture) are introduced into a solution of 712 g (17.8 mols) of sodium hydroxide in 4.4 l of water. After the addition of 7 ml of alkylaryl polyglycol ether, the mixture is stirred at 70° C. until complete dissolution occurs (about 16 hours). 438 g (4.14 mols) of thiocarbohydrazide and 115 ml of 1-decanol are then added, the mixture is stirred for one hour at 70° C., and 1525 ml of acetic acid are rapidly added dropwise, causing the reaction product to precipitate. The mixture is stirred at 80° C. for a further 2 hours, allowed to cool to room temperature and the precipitate is filtered off with suction, washed several times with water and also with petroleum ether and dried at 70° C. 725 g (82.6% of theory) of the above compound of melting point 142°-143° C. are obtained.

reactant | sodium hydroxide | 17.8 mols, 712 g | [OH-].[Na+]
reactant | thiocarbohydrazide | 4.14 mols, 438 g | NNC(=S)NN | CH6N4S
reactant | 1-decanol | 115 ml | C(CCCCCCCCC)O | C10H22O
reactant | acetic acid | 1525 ml | C(C)(=O)O | C2H4O2
solvent | water | 4.4 l | O | H2O
product | 4-Amino-6-(1-cyclopropylethyl)-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H,4H)-triazine | NN1C(NNC(C1=O)C(C)C1CC1)=S | C8H14N4OS
